US09084794B2
b) 4-bromo-2-fluorophenethyl acetate
A solution of 2-(4-bromo-2-fluorophenyl)ethanol (3.01 mmol) in dichloromethane (5 mL) and pyridine (10 mL) was treated with 4-(dimethylamino)pyridine (0.151 mmol) and acetic anhydride (9.04 mmol). The reaction was stirred overnight at room temperature. At this point the reaction was diluted with dichloromethane (100 mL). The organic layer was washed three times with 1N aq HCl, once with saturated aq sodium bicarbonate, and once with brine. The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo to afford the title compound as a pale beige oil (710 mg, 81% yield). 1H NMR (400 MHz, DMSO-d6) d ppm 1.96 (s, 3 H) 2.90 (t, J=6.44 Hz, 2 H) 4.20 (t, J=6.57 Hz, 2 H) 7.26-7.43 (m, 2 H) 7.51 (dd, J=9.73, 1.89 Hz, 1 H).

reactant | 2-(4-bromo-2-fluorophenyl)ethanol | 3.01 mmol | BrC1=CC(=C(C=C1)CCO)F | C8H8BrFO
reactant | acetic anhydride | 9.04 mmol | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
catalyst | 4-(dimethylamino)pyridine | 0.151 mmol | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-bromo-2-fluorophenethyl acetate | 710 mg, 81% yield | C(C)(=O)OCCC1=C(C=C(C=C1)Br)F | C10H10BrFO2
